US08133908B2
Description 30: 1,1-dimethylethyl (1S,4S,6S)-4-({[5-(trifluoromethyl)-2-pyrazinyl]amino}methyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate (D30)
1,1-dimethylethyl (1S,4S,6S)-4-(aminomethyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate D29 (400 mg) and 2-bromo-5-(trifluoromethyl)pyrazine (401 mg, 1.767 mmol) were dissolved in DMF (2 ml) then sodium carbonate (375 mg, 3.53 mmol) was added and the mixture was heated to 50° C. for 2 hours. DMF was concentrated under vacuum and the residue was taken up with DCM (3 ml) and washed with NaHCO3 saturated solution (4 ml). The organic phase was filtered through a phase separator tube, concentrated under vacuum and purified by silica gel chromatography (Biotage SP—column size 25 g SNAP using Cy:EtOAc=8:2 to 2:8 as eluent). It was recovered the title compound D30 (300 mg).

reactant | 1,1-dimethylethyl (1S,4S,6S)-4-(aminomethyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate | NC[C@H]1N(C[C@H]2C[C@H]2C1)C(=O)OC(C)(C)C | C12H22N2O2
reactant | 2-bromo-5-(trifluoromethyl)pyrazine | 1.767 mmol, 401 mg | BrC1=NC=C(N=C1)C(F)(F)F | C5H2BrF3N2
reactant | sodium carbonate | 3.53 mmol, 375 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl (1S,4S,6S)-4-({[5-(trifluoromethyl)-2-pyrazinyl]amino}methyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate | FC(C=1N=CC(=NC1)NC[C@H]1N(C[C@H]2C[C@H]2C1)C(=O)OC(C)(C)C)(F)F | C17H23F3N4O2
